US06291455B1
A mixture of 7-benzyloxy-6-methoxy-3,4-dihydroquinazolin-4-one (5.18 g, 18.4 mmol), (prepared as described for the starting material in Example 4), DMF (1 ml) and thionyl chloride (70 ml) was heated at reflux under argon for 2 hours. The mixture was allowed to cool, excess thionyl chloride was removed by evaporation and the residue azeotroped to dryness with toluene. The resulting crude 7-benzyloxy-4-chloro-6-methoxyquinazoline hydrochloride was suspended in isopropanol (50 ml) and 3-hydroxy4-methylaniline (2.60 g, 21.1 mmol) added. The mixture was heated at reflux for 3 hours and then allowed to cool. The precipitated product was collected by filtration, washed with isopropanol and dried to give 7-benzyloxy-4-(3-hydroxy-4-methylanilino)-6-methoxyquinazoline (4.7 g, 60%).

reactant | 7-benzyloxy-6-methoxy-3,4-dihydroquinazolin-4-one | 18.4 mmol, 5.18 g | C(C1=CC=CC=C1)OC1=C(C=C2C(NC=NC2=C1)=O)OC | C16H14N2O3
reactant | thionyl chloride | 70 ml | S(=O)(Cl)Cl | Cl2OS
reactant | 3-hydroxy4-methylaniline | 21.1 mmol, 2.60 g | OC=1C=C(N)C=CC1C | C7H9NO
solvent | DMF | 1 ml | CN(C)C=O | C3H7NO
product | 7-benzyloxy-4-(3-hydroxy-4-methylanilino)-6-methoxyquinazoline | 4.7 g, 60% | C(C1=CC=CC=C1)OC1=C(C=C2C(=NC=NC2=C1)NC1=CC(=C(C=C1)C)O)OC | C23H21N3O3
